US04547501
4-Chloro-[1,2,4]triazolo[4,3-a]-quinoxaline (2.0 g., 0.01 mole), the product of Example 2, and 3.0 g. (0.03 mole) of di-n-propylamine in N,N-dimethylformamide (50 ml.) were stirred for 3 hours at room temperature. The solution was poured over ice to form a precipitate which was separated by filtration and air dried. Recrystallization from cyclohexane (250 ml.) afforded 1.1 g. (41% yield) of 4-di-n-propylamino-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. 240°-242° C. Mass spectrum: m/e, 269 (P).

reactant | 4-Chloro-[1,2,4]triazolo[4,3-a]-quinoxaline | 0.01 mole, 2.0 g | ClC=1C=2N(C3=CC=CC=C3N1)C=NN2 | C9H5ClN4
reactant | di-n-propylamine | 0.03 mole | C(CC)NCCC | C6H15N
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-di-n-propylamino-[1,2,4]triazolo[4,3-a]quinoxaline | 41% yield | C(CC)N(C=1C=2N(C3=CC=CC=C3N1)C=NN2)CCC | C15H19N5
